US05157041
0.114 g of 3-cyano-L-alanine was dissolved in 5 ml of 1N sodium hydroxide solution and treated with 0.285 g of 2-naphthoyl chloride at 0° C. After acidification with 2M hydrochloric acid and flash chromatography on silica gel using 25% methanol in dichloromethane for the elution there was obtained 0.049 g of 3-cyano-N-(2-naphthoyl)-L-alanine of melting point 95°-100° C.

reactant | 3-cyano-L-alanine | 0.114 g | C(#N)C[C@H](N)C(=O)O | C4H6N2O2
reactant | 2-naphthoyl chloride | 0.285 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
product | 3-cyano-N-(2-naphthoyl)-L-alanine | 0.049 g | C(#N)C[C@H](NC(=O)C1=CC2=CC=CC=C2C=C1)C(=O)O | C15H12N2O3
